US05308866
0.851 g of propyl isocyanate is added to a suspension of 1.902 g of 5-methoxytryptamine in 4 cm3 of pyridine at +5° C. The mixture is stirred at room temperature for 2 hours and then the reaction medium is poured onto ice-water. The mixture is acidified slightly with a lN hydrochloric acid solution. The resulting precipitate is isolated by filtration, washed with water, dried and then recrystallised in toluene, yielding 2.34 g (85%) of N-[2-(5-methoxyindol-3-yl)ethyl]-N'-propylurea.

reactant | propyl isocyanate | 0.851 g | C(CC)N=C=O | C4H7NO
reactant | 5-methoxytryptamine | 1.902 g | COC1=CC=C2NC=C(CCN)C2=C1 | C11H14N2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 4 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[2-(5-methoxyindol-3-yl)ethyl]-N'-propylurea | 2.34 g, 85% | COC=1C=C2C(=CNC2=CC1)CCNC(=O)NCCC | C15H21N3O2
